US20010027196A1
2-Amino-4-propylamino-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfonyl-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile and propylamine in DME. ES-MS m/e (%): 382 (M+K+, 10), 366 (M+Na+, 20), 344 (M+H+, 100).

reactant | 2-amino-4-methanesulfonyl-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)(=O)C)C#N)C1=CC(=C(C(=C1)OC)OC)OC | C15H16N4O5S
reactant | propylamine | C(CC)N | C3H9N
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-propylamino-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCCC)C#N)C1=CC(=C(C(=C1)OC)OC)OC | C17H21N5O3
